US08022062B2
N-[(5-Phenylthiophen-2-yl)-methylene]-2-methylpropanesulfinamide:
1-(5-Phenyl-thiophen-2-yl)ethylamine (Isomer 2, Preparation 171) Add 4N hydrogen chloride in dioxane (1.112 mL, 4.449 mmol) to a stirred solution of N-[1-(5-phenylthiophen-2-yl)ethyl]-2-methylpropanesulfinamide (Isomer 2) (684 mg, 2.225 mmol) in methanol (10 mL) at room temperature. Stir for 2 h and remove the solvent in vacuo to obtain a solid that was washed with ethyl ether. Dissolve the solid in DCM and wash with saturated aqueous NaHCO3. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to obtain the desired intermediate (347 mg, 77% yield).

reactant | 1-(5-Phenyl-thiophen-2-yl)ethylamine | C1(=CC=CC=C1)C1=CC=C(S1)C(C)N | C12H13NS
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 4.449 mmol, 1.112 mL | O1CCOCC1 | C4H8O2
reactant | N-[1-(5-phenylthiophen-2-yl)ethyl]-2-methylpropanesulfinamide | 2.225 mmol, 684 mg | C1(=CC=CC=C1)C1=CC=C(S1)C(C)NS(=O)CC(C)C | C16H21NOS2
solvent | methanol | 10 mL | CO | CH4O
product | N-[(5-Phenylthiophen-2-yl)-methylene]-2-methylpropanesulfinamide | 347 mg, 77% yield | C1(=CC=CC=C1)C1=CC=C(S1)C=NS(=O)CC(C)C | C15H17NOS2
